US07973051B2
To a solution of 2,7-dibromo-6-methoxy-benzo[b]thiophene (1.1 g, 3.4 mmol) in diethyl ether (40 mL) was added dropwise at −75° C. n-BuLi (1.6N, 2.35 mL, 3.75 mmol). The reaction mixture was stirred at −75° C. for 1 h, then a stream of sulfur dioxide was passed over the surface of the solvent until the reaction was no more exothermic. The suspension was then stirred at rt for 1 h and concentrated under vacuum. The residue was quenched with sat. sodium bicarbonate-solution (30 mL), and at 0-5° C. N-chlorosuccinimide (0.525 g, 3.95 mmol) was added. The mixture was stirred at rt for 1 h, quenched with water, and extracted with ethyl acetate. The organic phases were dried and concentrated. The residue was chromatographed on silica gel using heptane/ethyl acetate as eluent to obtain 7-bromo-6-methoxy-benzo[b]thiophene-2-sulfonyl chloride (0.57 g). MS (EI) m/e 339.9 (M)

reactant | 2,7-dibromo-6-methoxy-benzo[b]thiophene | 3.4 mmol, 1.1 g | BrC1=CC2=C(S1)C(=C(C=C2)OC)Br | C9H6Br2OS
reactant | n-BuLi | 3.75 mmol, 1.6N, 2.35 mL | [Li]CCCC
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | N-chlorosuccinimide | 3.95 mmol, 0.525 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 7-bromo-6-methoxy-benzo[b]thiophene-2-sulfonyl chloride | 0.57 g | BrC1=C(C=CC2=C1SC(=C2)S(=O)(=O)Cl)OC | C9H6BrClO3S2
